### PR TITLE
[Merged by Bors] - feat: Add norm_iteratedFDeriv_prod_le using Sym

### PR DESCRIPTION
**Pull request by jvlmdr**
add (iterated) deriv for prod

* Add `HasFDerivAt` + variants for `Finset.prod` (and `ContinuousMultilinearMap.mkPiAlgebra`)
* Add missing `iteratedFDerivWithin` equivalents for zero, const (resolves a todo in `Analysis.Calculus.ContDiff.Basic`)
* Add `iteratedFDeriv[Within]_sum` for symmetry
* Add a couple of convenience lemmas for `Sym` and `Finset.{prod,sum}`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean [hunk 1]
```diff
@@ -1398,6 +1421,25 @@ theorem ContDiff.sum {ι : Type*} {f : ι → E → F} {s : Finset ι}
   simp only [← contDiffOn_univ] at *; exact ContDiffOn.sum h
 #align cont_diff.sum ContDiff.sum
 
+theorem iteratedFDerivWithin_sum_apply {ι : Type*} {f : ι → E → F} {u : Finset ι} {i : ℕ} {x : E}
```
Comment (jvlmdr) [inline Mathlib/Analysis/Calculus/ContDiff/Basic.lean:1424]: Perhaps it would make sense to add `[DecidableEq ι]` here to avoid using `Classical`?

Comment (urkud) [reply Mathlib/Analysis/Calculus/ContDiff/Basic.lean:1424]: Current guideline is: if you need `DecidableEq` to **formulate** a theorem, then assume it. If only to prove it, then don't.

Comment (jvlmdr) [reply Mathlib/Analysis/Calculus/ContDiff/Basic.lean:1424]: Thanks! Here, we would need `DecidableEq ι` to formulate the theorem (for e.g. `Finset ι`), but we don't need it because there is an `open Classical` at the top of the file. So I guess I can leave it as is.

Comment (urkud) [reply Mathlib/Analysis/Calculus/ContDiff/Basic.lean:1424]: `Finset ι` does not require `DecidableEq ι`. The induction principle you use does. E.g., `Finset.cons_induction_on` doesn't.

If there is a `Decidable` instance somewhere in the statement (not the proof!), then we explicitly assume it even if the file has `open Classical`. This way you don't get into trouble when you apply your lemma to `ι = Nat` or `ι = Fin n`, where you have non-classical `DecidableEq` instances.

Comment (jvlmdr) [reply Mathlib/Analysis/Calculus/ContDiff/Basic.lean:1424]: Thanks for the explanation! Sorry, my mistake about `Finset ι`, I had introduced another error and got confused. I see now, the statement doesn't need `DecidableEq` but the proof does due to my use of `Finset.induction`.

Comment (jvlmdr) [reply Mathlib/Analysis/Calculus/ContDiff/Basic.lean:1424]: Is it slightly preferable if I modify the proofs to use `Finset.cons_induction` instead?

It seems like `contDiff_update` and `contDiff_single` is this same file don't follow the principle of explicitly assuming `Decidable` even where the file has `open Classical`? (Both statements require `DecidableEq`, for `Function.update` and `Pi.single` respectively)

Comment (urkud) [reply Mathlib/Analysis/Calculus/ContDiff/Basic.lean:1424]: OTOH, all our topology depends on `Classical.choice`, so it doesn't matter too much. One bonus of `cons_induction` is that you have `a ∉ s` as an assumption, so lemmas like `Finset.sum_cons` don't need you to repeat it.

Comment (jvlmdr) [reply Mathlib/Analysis/Calculus/ContDiff/Basic.lean:1424]: OK, great! I'll updated the `sum` theorem to use `Finset.cons_induction` (still with no assumption of `DecidableEq`, and it won't break if `open Classical` is removed). I've kept `Finset.induction` for the `prod` theorem as the statement requires `DecidableEq` anyway (e.g. for `Finset.sym`, `Multiset.multinomial`) and the proof then uses the `insert` form for `Finset.symInsertEquiv`. Thanks for the guidance!

I'll do a squash + rebase as this is a few hundred commits behind master.

File: Mathlib/Algebra/BigOperators/Basic.lean [hunk 2]
```diff
@@ -2331,6 +2336,18 @@ lemma prod_attach_univ (f : {i // i ∈ @univ ι _} → α) :
...
+theorem prod_erase_attach [DecidableEq ι] {s : Finset ι} (f : ι → α) (i : ↑s) :
+    ∏ j in s.attach.erase i, f ↑j = ∏ j in s.erase ↑i, f j := by
+  simp only [erase_eq]
+  rw [← prod_update_one_of_mem i.prop, ← prod_update_one_of_mem (mem_attach s i)]
+  rw [← prod_coe_sort s]
+  refine prod_congr rfl ?_
+  intro j _
+  simp only [← Function.comp_apply (g := Subtype.val) (x := j)]
+  rw [Function.update_comp_eq_of_injective _ Subtype.val_injective]
+  rfl
```
Comment (urkud) [inline Mathlib/Algebra/BigOperators/Basic.lean:2349]: You can use something like (not tested):
```suggestion
  rw [← prod_map _ (.subtype (· ∈ s)), map_erase, attach_map_val]
```

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean [hunk 3]
```diff
@@ -71,6 +69,17 @@ theorem iteratedFDeriv_zero_fun {n : ℕ} : (iteratedFDeriv 𝕜 n fun _ : E =>
     rfl
 #align iterated_fderiv_zero_fun iteratedFDeriv_zero_fun
 
+@[simp]
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/ContDiff/Basic.lean:72]: Could you please cherry-pick changes to this file to a new branch, so that it can be merged before the `prod` part of the PR? If you do this, then please assign the new PR to me (or request a review from me), and I'll merge it quickly.

File: Mathlib/Analysis/Calculus/FDeriv/Mul.lean [hunk 4]
```diff
@@ -566,6 +566,112 @@ theorem fderiv_const_mul (ha : DifferentiableAt 𝕜 a x) (b : 𝔸) :
...
+
+variable {ι : Type*} [DecidableEq ι] {𝔸' : Type*} [NormedCommRing 𝔸'] [NormedAlgebra 𝕜 𝔸']
+  {u : Finset ι} {f : ι → E → 𝔸'} {f' : ι → E →L[𝕜] 𝔸'}
+
+section Fintype
+
+variable [Fintype ι]
+
+theorem hasStrictFDerivAt_finset_prod_univ {x : ι → 𝔸'} :
+    HasStrictFDerivAt (𝕜 := 𝕜) (∏ i, · i) (∑ i, (∏ j in Finset.univ.erase i, x j) • proj i) x := by
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/FDeriv/Mul.lean:583]: Should we prove a `List.prod` version for noncommutative normed algebras first, then deduce the `Finset` version from it? BTW, you prove it by generalizing `Finset.univ`, then using induction; why formulate for `univ`, not any `Finset` here?

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean (hunk 3 above)
Comment (jvlmdr) [reply Mathlib/Analysis/Calculus/ContDiff/Basic.lean:72]: Thanks! Done as #10733

File: Mathlib/Analysis/Calculus/FDeriv/Mul.lean (hunk 4 above)
Comment (jvlmdr) [reply Mathlib/Analysis/Calculus/FDeriv/Mul.lean:583]: Oh yes, you're right, it makes more sense to just prove for any `Finset`.

I agree, it would be good to have `List.prod` and implement this in terms of that.

I'll revise the PR, thanks!

File: Mathlib/Algebra/BigOperators/Basic.lean [hunk 5]
```diff
@@ -1858,6 +1858,11 @@ theorem prod_update_of_mem [DecidableEq α] {s : Finset α} {i : α} (h : i ∈
 #align finset.prod_update_of_mem Finset.prod_update_of_mem
 #align finset.sum_update_of_mem Finset.sum_update_of_mem
 
+@[to_additive]
+theorem prod_update_one_of_mem [DecidableEq α] {s : Finset α} {i : α} (hi : i ∈ s) (f : α → β) :
+    ∏ j in s, Function.update f i 1 j = ∏ j in s \ singleton i, f j := by
```
Comment (fpvandoorn) [inline Mathlib/Algebra/BigOperators/Basic.lean:1863]:
```suggestion
    ∏ j in s, Function.update f i 1 j = ∏ j in s.erase i, f j := by
```
This is the canonical spelling. Though I see `prod_update_of_mem` also doesn't use this, so maybe ignore this comment.

File: Mathlib/Analysis/Calculus/FDeriv/Mul.lean (hunk 4 above)
Comment (jvlmdr) [reply Mathlib/Analysis/Calculus/FDeriv/Mul.lean]: I've pushed a partial first draft. I wasn't sure what form the statements should take for the non-commutative list variants. I've provided these two for `hasStrictFDerivAt_...` (below). The second variant has the advantage that no `Fintype` is required, whereas the first variant supports a more general list.

```lean
theorem hasStrictFDerivAt_list_prod' [Fintype ι] {l : List ι} (hl : l.Nodup) {x : ι → 𝔸} :
    HasStrictFDerivAt (𝕜 := 𝕜) (fun x ↦ (l.map x).prod)
      (∑ i : Fin l.length, ((l.take i).map x).prod •
        smulRight (proj (l.get i)) ((l.drop (.succ i)).map x).prod) x := by ...

theorem hasStrictFDerivAt_list_prod'_finRange {n : ℕ} {x : Fin n → 𝔸} :
    HasStrictFDerivAt (𝕜 := 𝕜) (fun x ↦ ((List.finRange n).map x).prod)
      (∑ i : Fin n, (((List.finRange n).take i).map x).prod •
        smulRight (proj i) (((List.finRange n).drop (.succ i)).map x).prod) x := by ...
```

Then, for the variant that support composition, I have used the statement:

```lean
theorem HasFDerivAt.list_prod' {l : List (E → 𝔸')} {l' : List (E →L[𝕜] 𝔸')} {x : E}
    (hll' : l.length = l'.length)
    (h : ∀ i : Fin l.length,
      HasFDerivAt (fun x ↦ List.get l i x) (List.get l' (i.cast hll')) x) :
    HasFDerivAt (fun x ↦ (l.map fun f ↦ f x).prod)
      (∑ i : Fin l'.length, ((l.take i).map (fun f ↦ f x)).prod •
        smulRight (l'.get i) ((l.drop (.succ i)).map fun f ↦ f x).prod) x := by ...
```

Maybe it would be cleaner to use `{l : List ι} {f : ι → E → 𝔸'} {f' : ι → E →L[𝕜] 𝔸'}` here, or a list of pairs.

Let me know if you have a better idea or an opinion, thanks!

File: Mathlib/Algebra/BigOperators/Basic.lean (hunk 5 above)
Comment (jvlmdr) [reply Mathlib/Algebra/BigOperators/Basic.lean:1863]: Thanks!

File: Mathlib/Analysis/Calculus/FDeriv/Mul.lean (hunk 4 above)
Comment (jvlmdr) [reply Mathlib/Analysis/Calculus/FDeriv/Mul.lean]: Update:

I removed the `HasFDerivAt.func_list_prod'` variant above (with `l : List (E → 𝔸)` a list of functions) and kept only the form with `l : List ι` and `f : ι → E → 𝔸`.

I added the forms `Has{StrictFDeriv,FDeriv,FDerivWithin}At.xxx_prod` and `fderiv[Within]_xxx_prod` for `list_prod'`, `multiset_prod`, `finset_prod`. I didn't provide `list_prod` (for commutative multiplication), as I figured this can just be transformed to into a `Multiset` product using `Multiset.coe_prod`. (There is a single theorem `hasStrictFDerivAt_list_prod` but this is merely a helper to implement `hasStrictFDerivAt_multiset_prod` via `Quotient.inductionOn`.)

While I didn't use it for the other proofs, I added `has[Strict]FDerivAt_list_prod_attach'` that operates on `x : {i // i ∈ l} → 𝔸` in case this is convenient. It might be unnecessary though.

I reduced the proof of `Finset.prod_erase_attach` as suggested, and added the analog `Multiset.erase_attach_map_val` for the `multiset_prod` proof. I also added `List.eraseIdx_eq_take_drop_succ` (perhaps belongs in `Std`?) and `List.erase_get` for the `list_prod'` proof.

File: Mathlib/Analysis/Calculus/FDeriv/Mul.lean [hunk 6]
```diff
@@ -566,6 +566,229 @@ theorem fderiv_const_mul (ha : DifferentiableAt 𝕜 a x) (b : 𝔸) :
...
+theorem fderiv_list_prod' {l : List ι} {x : E}
+    (h : ∀ i ∈ l, DifferentiableAt 𝕜 (f i ·) x) :
+    fderiv 𝕜 (fun x ↦ (l.map (f · x)).prod) x =
+      ∑ i : Fin l.length, ((l.take i).map (f · x)).prod •
+        smulRight (fderiv 𝕜 (fun x ↦ f (l.get i) x) x)
+          ((l.drop (.succ i)).map (f · x)).prod :=
+  (HasFDerivAt.list_prod' fun i hi ↦ (h i hi).hasFDerivAt).fderiv
+
+theorem fderivWithin_list_prod' {l : List ι} {x : E}
+    (h : ∀ i ∈ l, DifferentiableWithinAt 𝕜 (f i ·) s x) (hxs : UniqueDiffWithinAt 𝕜 s x) :
```
Comment (fpvandoorn) [inline Mathlib/Analysis/Calculus/FDeriv/Mul.lean:706]:
```suggestion
    (hxs : UniqueDiffWithinAt 𝕜 s x) (h : ∀ i ∈ l, DifferentiableWithinAt 𝕜 (f i ·) s x) :
```

Comment (fpvandoorn) [reply Mathlib/Analysis/Calculus/FDeriv/Mul.lean:706]: This seems to be the consistent argument order (at least in this file).

**Review by fpvandoorn — COMMENTED** [review]
Thanks, this looks very good! 

bors d+

File: Mathlib/Analysis/Calculus/FDeriv/Mul.lean (hunk 6 above)
Comment (jvlmdr) [reply Mathlib/Analysis/Calculus/FDeriv/Mul.lean:706]: Nice catch, thanks

**Comment by jvlmdr** [comment]
Thanks very much!

Should I add a variant of `norm_iteratedFDeriv_list_prod_le` for `List`s with non-commutative multiplication as well? And `contDiff_list_prod`, etc.? Perhaps as a separate PR?

**Comment by fpvandoorn** [comment]
New PRs are cheap. I would not expand this PR further if I were you, and just open a new PR when you've done what you're suggesting. That makes it also easier to separate reviewed an unreviewed code.
Feel free to leave a to do in the file, if you want.

**Comment by jvlmdr** [comment]
Sounds good, I'll do that. Thanks all!

**Comment by jvlmdr** [comment]
Sorry, there was an upstream change that broke the PR (`List.erase_cons_tail` now uses `beq`). I'll squash, rebase, fix.

**Comment by fpvandoorn** [comment]
Thanks, let's try again

bors merge
